US07041685B2
3-(4-Chloro-phenyl)-5-(3-methyl-furan-2-yl)-[1,2,4]-oxadiazole
A solution of 3-methyl-furan-2-carboxylic acid (252 mg, 2 mmol), thionyl chloride (0.5 mL) in benzene (5 mL) was stirred at 60° C. for 8 h and evaporated to dryness. The residue was dissolved in pyridine (10 mL), and to the solution was added 4-chloro-benzamidoxime (340 mg, 2 mmol). The solution was refluxed for 10 h and then cooled to room temperature. The solution was diluted by water (20 mL) to produce a precipitate. The solid was collected by filtration and washed with water, then dried to yield 201 mg (39%) of the title compound. 1H NMR (CDCl3): 8.12 (d, J=8.4 Hz, 2H), 7.62 (d, J=1.5 Hz, 1H), 7.48 (d, J=8.4 Hz, 2H), 6.50 (d, J=1.5 Hz, 1H).

reactant | 3-methyl-furan-2-carboxylic acid | 2 mmol, 252 mg | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | thionyl chloride | 0.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chloro-benzamidoxime | 2 mmol, 340 mg | ClC1=CC=C(C(N)=NO)C=C1 | C7H7ClN2O
reactant | water | 20 mL | O | H2O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-Chloro-phenyl)-5-(3-methyl-furan-2-yl)-[1,2,4]-oxadiazole | 201 mg, 39% | ClC1=CC=C(C=C1)C1=NOC(=N1)C=1OC=CC1C | C13H9ClN2O2
